US04618611
1-(4-Fluorophenyl)-1-{4-[3-(4-benzyl-piperazin-1-yl)-propoxy]-phenyl}-propan-1-ol
To a Grignard reactant prepared from 2.4 g. of magnesium turnings and 11 g. of ethyl bromide in 40 ml. of dry ether a solution of 10.8 g. of 4-fluoro-4'-[3-(4-benzyl-piperazin-1-yl)-propoxy]-benzophenone in 200 ml. of dry ether is added dropwise, at -30° C. The reaction mixture is stirred at 0° C. for additional 30 minutes, and is then refluxed for one hour. After cooling the reaction mixture is poured onto a solution of ammonium chloride in ice water. The ethereal phase is separated. The aqueous phase is extracted with ether. The ethereal phases are combined and washed to neutral with water. After drying over anhydrous magnesium sulfate, the solution is evaporated in vacuo. The residue is crystallized from isopropyl ether. 5.3 g. of the end product are obtained, melting at 119° to 121° C.

reactant | magnesium | [Mg] | Mg
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | 4-fluoro-4'-[3-(4-benzyl-piperazin-1-yl)-propoxy]-benzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCN2CCN(CC2)CC2=CC=CC=C2)C=C1 | C27H29FN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 1-(4-Fluorophenyl)-1-{4-[3-(4-benzyl-piperazin-1-yl)-propoxy]-phenyl}-propan-1-ol | FC1=CC=C(C=C1)C(CC)(O)C1=CC=C(C=C1)OCCCN1CCN(CC1)CC1=CC=CC=C1 | C29H35FN2O2
